* Z:\mnt\design.r\spice\examples\ADP2370-3.3.asc
V1 IN 0 12
L1 N002 OUT 10µ
C1 OUT 0 10µ
R1 OUT N001 10K
XU1 IN IN IN IN N002 OUT N001 0 ADP2370 IPSM=440m Rt=378787.879 Rb=121212.121 C1=1.6p Rc1=300k R3=5.92k Rshort=100MEG PD=0
Rload OUT 0 20
.tran 500u startup
.lib ADP2370.sub
.backanno
.end
